US03982891
B. Preparation of N-methoxycarbonyl phthalimide
A suspension comprising 25 millimoles of potassium phthalimide and 20 ml of methylchloroformate is refluxed for a period of approximately 31/2 hours. Upon completion of refluxing, the reaction mediuim is cooled, filtered, with insolubles being removed continuously by treatment with hot acteone until only potassium chloride remains. The desired product m.p. 184° - 184.5°C., is obtained from the acetone.

reactant | potassium phthalimide | 25 millimoles | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methylchloroformate | 20 ml | COC(=O)Cl | C2H3ClO2
product | N-methoxycarbonyl phthalimide | COC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO4
